US07557212B2
Step 1: 2-[(4-bromophenoxy)methyl]nicotinic Acid
32 g (185 mmol) of 4-bromophenol are treated in methanol with 33.32 g (185 mmol) of 30% solution of sodium methoxide in methanol. The solvent is eliminated and the residue mixed with 5.0 g (37.00 mmol) of furo[3,4-b]pyridin-5(7H)-one (prepared according to Synthesis, 1997, 113-116). The system is stirred at 165° C. for 30′ (at first the mixture melts, afterwards solidifies). Once at room temperature, the solid is dissolved in excess water, adjusted at pH 7-8 with 2N HCl and extracted two times with dichloromethane. The aqueous layer is adjusted at pH 5-6 with more 2N HCl and the solid that precipitates is filtered, washed with water and dried. The yield is 6.6 g (58%).

reactant | 4-bromophenol | 185 mmol, 32 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | sodium methoxide | C[O-].[Na+]
reactant | furo[3,4-b]pyridin-5(7H)-one | 37.00 mmol, 5.0 g | N1=C2C(=CC=C1)C(OC2)=O | C7H5NO2
reactant | HCl | 2N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-[(4-bromophenoxy)methyl]nicotinic Acid | BrC1=CC=C(OCC2=C(C(=O)O)C=CC=N2)C=C1 | C13H10BrNO3
